US07371751B2
2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-5-methyl-thiazole-4-carboxylic acid
A mixture of 2.0 g (7.4 mmol) 2-(4-Chloro-phenylamino)-5-methyl-thiazole-4-carboxylic acid, 1.56 ml (11.1 mmol) 2,4-Dichlorobenzoyl chloride and 3.09 ml (22.3 mmol) NEt3 in 30 ml DCM was stirred at room temperature for 2 h. After removal of all volatiles the resulting yellow foam was used without further purification in the consecutive step. MS (m/e): 441.0 (MH+, 100%)

reactant | 2-(4-Chloro-phenylamino)-5-methyl-thiazole-4-carboxylic acid | 7.4 mmol, 2.0 g | ClC1=CC=C(C=C1)NC=1SC(=C(N1)C(=O)O)C | C11H9ClN2O2S
reactant | 2,4-Dichlorobenzoyl chloride | 11.1 mmol, 1.56 ml | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | NEt3 | 22.3 mmol, 3.09 ml | CCN(CC)CC | C6H15N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-5-methyl-thiazole-4-carboxylic acid | ClC1=CC=C(C=C1)N(C=1SC(=C(N1)C(=O)O)C)C(C1=C(C=C(C=C1)Cl)Cl)=O | C18H11Cl3N2O3S
